US06653471B2
To a mixture of 3,4,5,6-tetrahydro-3,10-diazabenzo[e]azulene-1-carboxylic acid [2-(2-hydroxy-ethoxy)pyridin-3-yl]amide (150 mg, 0.41 mmol) and triethylamine (125 mg, 1.2 mmol) in DCM (10 mL) at 0° C. is added methanesulfonyl chloride (94 mg, 0.82 mmol) dropwise. The mixture is stirred at 0° C. for 15 min. The solvent is removed and the residue is dissolved in acetonitrile (10 mL) and transferred to a sealed tube. Ethylamine (1 mL) is added and the mixture is heated at 60° C. for 3 h. The solvent is removed and the residue is separated by preparative TLC to give 87 mg of 3,4,5,6-tetrahydro-3,10-diazabenzo[e]azulene-1-carboxylic acid [1-(2-ethylaminoethyl)-2-oxo-1,2-dihydro-pyridin-3-yl]amide. LRMS Calcd 391.5; found M−1 390.2.

reactant | 3,4,5,6-tetrahydro-3,10-diazabenzo[e]azulene-1-carboxylic acid [2-(2-hydroxy-ethoxy)pyridin-3-yl]amide | 0.41 mmol, 150 mg | OCCOC1=NC=CC=C1NC(=O)C1=CNC=2CCCC3=C(C12)N=CC=C3 | C20H20N4O3
reactant | triethylamine | 1.2 mmol, 125 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.82 mmol, 94 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,4,5,6-tetrahydro-3,10-diazabenzo[e]azulene-1-carboxylic acid [1-(2-ethylaminoethyl)-2-oxo-1,2-dihydro-pyridin-3-yl]amide | 87 mg | C(C)NCCN1C(C(=CC=C1)NC(=O)C1=CNC=2CCCC3=C(C12)N=CC=C3)=O | C22H25N5O2
